US04913891
Preparation of 3-(2,4-Dichlorophenoxy)propylbromide
2,4-Dichlorophenol (20.5 g, 0.126 mol), 1,3-dibromopropane (49.1 g, 0.243 mol) and a solution of 5 g NaOH in 20 ml H2O were refluxed for 75 min (oil bath 135°). A solution of 4.5 g of NaOH in 32 ml H2O was added and the mixture was heated on a steam bath for 11/2 hr. The layers were separated, the organic layer was extracted with water and then subjected to vacuum distillation (3-4 mm). A 19.6 g forecut was collected from room temperature to 50°. The product (20.5 g, 57%) distilled from 134°-137°. HPLC analysis (MeOH: 0.05N NH4HCO2 80:20) showed the material to be 87% pure. Retention times of the impurities were 4.8 and 8.8 min while the product was 11.6 min. Extraction with water had no effect on the composition. As the impurities were found to be inert during the subsequent reactions, the material was used without further purification.

reactant | 2,4-Dichlorophenol | 0.126 mol, 20.5 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | 1,3-dibromopropane | 0.243 mol, 49.1 g | BrCCCBr | C3H6Br2
reactant | NaOH | 5 g | [OH-].[Na+]
reactant | NaOH | 4.5 g | [OH-].[Na+]
solvent | H2O | 20 ml | O | H2O
solvent | H2O | 32 ml | O | H2O
product | 3-(2,4-Dichlorophenoxy)propylbromide | ClC1=C(OCCCBr)C=CC(=C1)Cl | C9H9BrCl2O
